US09120825B2
In an argon atmosphere, 8.44 g (36.2 mmol) of Si(tBuNCHCHNtBu)(H)Cl was dissolved in 17 mL of hexane and after adding a (2-methylprop-1-en-1-yl)magnesium bromide tetrahydrofuran solution (0.56 mol/L, 68.0 mL, 38.1 mmol), the resulting solution was stirred at room temperature for 18 hours. Insoluble matters produced were separated by filtration, and the solvent was removed by distillation from the filtrate under atmospheric pressure. The obtained residue was distilled under reduced pressure (distillation temperature: 90° C./3.5×102 Pa) to obtain 1,3-di-tert-butyl-2-(2-methylprop-1-en-1-yl)-1,3-diaza-2-silacyclopent-4-ene (Si(tBuNCHCHNtBu)(H)CHC(CH3)2) as a yellow liquid (yielded amount: 6.30 g, yield: 69%).

reactant | 2-chloro-1,3-di-tert-butyl-1,3-diaza-2-silacyclopent-4-ene | 36.2 mmol, 8.44 g | Cl[SiH]1N(C=CN1C(C)(C)C)C(C)(C)C | C10H21ClN2Si
reactant | (2-methylprop-1-en-1-yl)magnesium bromide tetrahydrofuran | 38.1 mmol, 0.56 mol/L, 68.0 mL | O1CCCC1.CC(=C[Mg]Br)C
solvent | hexane | 17 mL | CCCCCC | C6H14
product | 1,3-di-tert-butyl-2-(2-methylprop-1-en-1-yl)-1,3-diaza-2-silacyclopent-4-ene | yield: 69% | C(C)(C)(C)N1[SiH](N(C=C1)C(C)(C)C)C=C(C)C | C14H28N2Si
